US07795262B2
XVI. 2-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-6-(1H-Pyrazol-1-Yl)-1,2,3,4-Tetrahydroisoquinoline (Scheme 8)
A mixture of 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline (120 mg, 0.307 mmol), pyrazole (31 mg, 0.46 mmol), Cu2O (4 mg, 0.03 mmol), salicylaldoxime (16 mg, 0.12 mmol) and Cs2CO3 (300 mg, 0.92 mmol) in CH3CN (8 mL) is degassed by argon and heated at 120° C. in a sealed tube overnight. EtOAc (10 mL) is added and the mixture is filtered. The organic layer is washed with brine (10 mL) and dried. Purification of the residue by PTLC gives title compound as a light yellow solid. MS (M+1): 380.2; 1H NMR (δ, CDCl3): 7.88 (d, 1H), 7.70 (d, 1H), 7.47 (d, 1H), 7.41 (dd, 1H), 7.08 (d, 1H), 6.45 (dd, 1H), 3.71 (s, 2H), 3.65 (t, 4H), 3.38 (s, 2H), 2.96 (t, 2H), 2.81 (t, 2H), 2.63-2.72 (m, 1H), 2.28 (q, 4H), 1.64-2.08 (m, 6H).

reactant | 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline | 0.307 mmol, 120 mg | BrC=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C19H26BrN3O
reactant | pyrazole | 0.46 mmol, 31 mg | N1N=CC=C1 | C3H4N2
reactant | salicylaldoxime | 0.12 mmol, 16 mg | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
reactant | Cs2CO3 | 0.92 mmol, 300 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | 2-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-6-(1H-Pyrazol-1-Yl)-1,2,3,4-Tetrahydroisoquinoline | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)N1N=CC=C1)=O | C22H29N5O
